US08242104B2
4-Bromo-1-but-3-ynyloxy-2-nitro-benzene (82% pure, 4.22 g, 12.5 mmol) was heated in a mixture of IMS (Industrial Methylated Spirits, 40 mL) and glacial acetic acid (2 mL) at approx. 50° C. until a solution was formed. Iron powder (5.05 g, 89.8 mmol) and iron (III) chloride hexahydrate (0.56 g, 1.56 mmol) were added and the mixture was heated under reflux for 18 h. The cooled mixture was filtered through Celite®, and washed through with ethyl acetate. The filtrate was washed with water, followed by brine, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 10 to 20% ethyl acetate in cyclohexane) to give 5-Bromo-2-but-3-ynyloxy-phenylamine as an orange oil (2.68 g, 89%). LCMS: RT=4.10 min, M+H+=240/242.

reactant | 4-Bromo-1-but-3-ynyloxy-2-nitro-benzene | 12.5 mmol, 4.22 g | BrC1=CC(=C(C=C1)OCCC#C)[N+](=O)[O-] | C10H8BrNO3
catalyst | Iron | 89.8 mmol, 5.05 g | [Fe] | Fe
catalyst | iron (III) chloride hexahydrate | 1.56 mmol, 0.56 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-but-3-ynyloxy-phenylamine | 2.68 g, 89% | BrC=1C=CC(=C(C1)N)OCCC#C | C10H10BrNO
